** sch_path: /home/veswaranandam/SKY130-AY38910/xschem/scratchpad.sch
**.subckt scratchpad
X2 CLK cen VRST bdir bc1 bc2 din7 din6 din5 din4 din3 din2 din1 din0 test_core
C27 din7 0 1f m=1
C26 din6 0 1f m=1
C25 din5 0 1f m=1
C24 din4 0 1f m=1
C23 din3 0 1f m=1
C22 din2 0 1f m=1
C21 din1 0 1f m=1
C20 din0 0 1f m=1
C1 bc1 0 1f m=1
C2 bc2 0 1f m=1
C3 bdir 0 1f m=1
C4 cen 0 1f m=1
**** begin user architecture code


.param VDD=1.8
.include ~/SKY130-AY38910/xschem/jt49_bus.spice
.include ~/SKY130-AY38910/xschem/test_core.spice
.control

**** change default parameters of auto adc/dac bridges
pre_set auto_bridge_d_in =
+ ( ".model auto_adc adc_bridge(
+   in_low = '0.9 * 1.8 / 2' in_high = '1.1 * 1.8 / 2'
+   rise_delay=1e-11 fall_delay=1e-11 )"
+ "auto_bridge%d [ %s ] [ %s ] auto_adc" )

pre_set auto_bridge_d_out =
+ ( ".model auto_dac dac_bridge(
+   out_low = 0 out_high = 1.8
+   t_rise=1e-11 t_fall=1e-11 )"
+ "auto_bridge%d [ %s ] [ %s ] auto_dac" )

*  save all
  tran 10ps 3ms
*  remzerovec
*  write tb_counter_wrapper.raw
.endc


**** end user architecture code
**.ends
.end
